US04818761
(b) Preparation of 1-phenyl-2-chloromethyl-5-chloro-6-ethylbenzimidazole
A mixture of 2-anilino-4-ethyl-5-chloroaniline (3.3 g, 13.4 mmol) prepared in the preceding step (a), polyphosphoric ester (8.9 g) and monochloroacetic acid (1.3 g, 13.4 mmol) was heated for 1 hour at 130° C. under stirring. Water was added to the reaction mixture to decompose an excess of the ester and they were neutralized with sodium carbonate and the occurred oily substance was extracted with chloroform, which was washed, dried, and concentrated in vacuo.

reactant | 2-anilino-4-ethyl-5-chloroaniline | 13.4 mmol, 3.3 g | N(C1=CC=CC=C1)C1=C(N)C=C(C(=C1)CC)Cl | C14H15ClN2
reactant | monochloroacetic acid | 13.4 mmol, 1.3 g | ClCC(=O)O | C2H3ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | O | H2O
product | 1-phenyl-2-chloromethyl-5-chloro-6-ethylbenzimidazole | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C(=C2)Cl)CC)CCl | C16H14Cl2N2
